US05039691
(R)-(+)-3-[(2,2-DIMETHYL-1,3-DIOXOLANYL)METHYL]-2,2-DIPHENYLPROPIONIC ACID
To a solution of 39.2 g (0.185 mole) of diphenylacetic acid in 100 mL of tetrahydrofuran was added 309 mL (0.463 mole) of a 1.5 M solution of lithium diisopropylamide mono (tetrahydrofuran) in cyclohexane in 300 mL of tetrahydrofuran at 0° C. The resulting mixture was stirred at 25° C. for 30 minutes and then at 70° C. for 1 hour. After being cooled to 0° C., 67.1 g (0.227 mole) of (S)-(-)-2,2-dimethyl-4-iodomethyl-1,3-dioxolane was added dropwise and stirring was continued at 0° C. for 30 minutes and then at 25° C. for 20 hours. The reaction mixture was poured into 800 mL of ice-water and extracted with ethyl acetate. The aqueous part was acidified (pH 4) with 2.5N hydrochloric acid and saturated with sodium chloride. The mixture was extracted with ethyl acetate. After the organic extracts were washed with brine, they were dried (MgSO4) and concentrated to give 44.5 g (74%) of a red oil. 1H NMR (CDCl3)δ 7.38-7.25 (m), 3.95-3.85 (m, 1H), 3.30-3.15 (m, 1H), 2.95-2.90 (m, 1H), 2.35-2.30 (m, 1H), 1.23 (s, CH3), 1.25 (s, CH3).

reactant | diphenylacetic acid | 0.185 mole, 39.2 g | C1(=CC=CC=C1)C(C(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | lithium diisopropylamide mono (tetrahydrofuran) | O1CCCC1.C(C)(C)[N-]C(C)C.[Li+]
reactant | (S)-(-)-2,2-dimethyl-4-iodomethyl-1,3-dioxolane | 0.227 mole, 67.1 g | CC1(OC[C@H](O1)CI)C | C6H11IO2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | (R)-(+)-3-[(2,2-DIMETHYL-1,3-DIOXOLANYL)METHYL]-2,2-DIPHENYLPROPIONIC ACID | 44.5 g, 74% | CC1(OC[C@H](O1)CCC(C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1)C | C21H24O4
